US05321027
A solution of 2 g of triethylamine in 5 ml of anhydrous dimethylformamide and then a solution of 2.15 g of chloroformic acid ethyl ester in 10 ml of methylene chloride is added dropwise to a solution, stirred at from -5° to 0°, of 3.8 g of p-propionamidobenzoic acid in 30 ml of anhydrous dimethylformamide. The reaction mixture is stirred for 30 minutes at from 0° to 5° and then a solution of 4.4 g of 1-[2-(4-chlorophenyl)ethyl]-piperazine in 25 ml of anhydrous dimethylformamide is added dropwise thereto. The suspension is stirred overnight at approximately 5° and concentrated by evaporation. 50 ml of water are added to the residue and the solution is rendered alkaline with 2N sodium hydroxide solution and extracted by shaking with methylene chloride. The combined organic phases are washed with water, dried over sodium sulfate, filtered and concentrated by evaporation. The residue is chromatographed over silica gel and the resulting oil is crystallised from acetone/diethyl ether, yielding 1-[4-(N-propionylamino)-benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 131°-132°.

reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid ethyl ester | 2.15 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | p-propionamidobenzoic acid | 3.8 g | C(CC)(=O)NC1=CC=C(C(=O)O)C=C1 | C10H11NO3
reactant | 1-[2-(4-chlorophenyl)ethyl]-piperazine | 4.4 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-[4-(N-propionylamino)-benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | C(CC)(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C22H26ClN3O2
